US05932595
4-(Iodomethyl)tetrahydropyran-4-carboxylic acid ethyl ester (300 mg, 1 mmol) was added to a solution containing the sodium salt of 4-(4-chlorophenoxy)thiophenol (generated by the addition of sodium hydride powder (36 mg, 1.5 mmol) to a solution of 4-(4-chlorophenoxy)thiophenol (262 mg, 1.1 mmol) in N,N-dimethylformamide (2 mL) at 0° C. and stirring for 30 minutes). The mixture was warmed to room temperature over 5 minutes, stirred for an additional 20 minutes, cooled to room temperature, and 1M aqueous hydrochloric acid (5 mL) added. The mixture was then partitioned between ethyl acetate (100 mL) and 2M hydrochloric acid (25 mL). The aqueous layer was separated and washed with additional ethyl acetate (2×50 mL). The organic extracts were combined, washed with 1M sodium hydroxide (2×30 mL), dried over magnesium sulfate, concentrated in vacuo. Chromatography over silica gel, and eluting with 20% ethylacetate/hexanes, yielded pure 4-[4-(4-chlorophenoxy)phenylthiomethyl]-tetrahydropyran-4-carboxylic acid ethyl ester (370 mg, 91%), followed by impure 4-[4-(4-chlorophenoxy)phenylthiomethyl]tetrahydropyran-4-carboxylic acid ethyl ester (40 mg). IR (KBr) 1728 cm-1 ; 1HNMR (CDCl3) 1.23 (q, J=7.1 Hz, 3H), 1.56 (ddd, J=14.6, 10.9, 4.4, 2H), 1.63 (ddd, J=14.6, 5.7, 3.3, 2H), 3.13 (s, 2H), 3.51 (ddd, J=11.8, 11.1, 2.4 Hz, 2H), 3.80 (dt, J=11.8, 4.1 Hz, 2H), 4,07 (q, J=7.1 Hz, 2H), 6.91 (d, J=8.9 Hz, 2H), 6.92 (d, J=8.9 Hz, 2H), 7.29 (d, J=9.0 Hz, 2H), 7.39 (d, J=8.9 Hz, 2H); 13C NMR (CDCl3) δ 14.20 (q), 33.72 (t), 45.72 (t), 46.07 (s), 60.92 (t), 65.06 (t), 119.29 (d), 120.20 (d), 128.43 (s), 129.85 (d), 130.57 (s), 133.05 (s), 155.40 (s), 156.21 (s), 174.02 (s); EIHRMS Calcd. for C21H23SO4Cl (M+): 406.1006. Found: 406.1008. Anal. Calcd. for C21H23SO4Cl: C, 61.98; H, 5.70. Found: C, 61.86; H, 5.68.

reactant | 4-(Iodomethyl)tetrahydropyran-4-carboxylic acid ethyl ester | 1 mmol, 300 mg | C(C)OC(=O)C1(CCOCC1)CI | C9H15IO3
reactant | sodium | [Na] | Na
reactant | 4-(4-chlorophenoxy)thiophenol | ClC1=CC=C(OC2=CC=C(C=C2)S)C=C1 | C12H9ClOS
reactant | sodium hydride | 1.5 mmol, 36 mg | [H-].[Na+]
reactant | 4-(4-chlorophenoxy)thiophenol | 1.1 mmol, 262 mg | ClC1=CC=C(OC2=CC=C(C=C2)S)C=C1 | C12H9ClOS
reactant | hydrochloric acid | 1M, 5 mL | Cl | ClH
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-[4-(4-chlorophenoxy)phenylthiomethyl]-tetrahydropyran-4-carboxylic acid ethyl ester | 370 mg, 91% | C(C)OC(=O)C1(CCOCC1)CSC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C21H23ClO4S
